US09422292B2
To a solution of (R)-4-(8-bromo-1,4-dimethyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-6(5H)-yl)benzonitrile (100 mg, 0.26 mmol) in DME/H2O (3:1, 2 mL) was added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (70 mg, 0.36 mmol), cesium carbonate (164 mg, 0.50 mmol) and Tetrakis(triphenylphosphine)palladium(0)(22 mg, 0.02 mmol). The mixture was stirred in the microwave at 130° C. for 20 min. The reaction mixture was concentrated and purified by prep-TLC (elute: DCM:MeOH=15:1) to give (R)-4-(1,4-dimethyl-8-(1H-pyrazol-4-yl)-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-6(5H)-yl)benzonitrile (15 mg, 15%).

reactant | (R)-4-(8-bromo-1,4-dimethyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-6(5H)-yl)benzonitrile | 0.26 mmol, 100 mg | BrC=1C=CC2=C(N(C[C@H](C=3N2C(=NN3)C)C)C3=CC=C(C#N)C=C3)C1 | C19H16BrN5
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.36 mmol, 70 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | cesium carbonate | 0.50 mmol, 164 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME H2O | 2 mL | COCCOC.O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 22 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-4-(1,4-dimethyl-8-(1H-pyrazol-4-yl)-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-6(5H)-yl)benzonitrile | 15 mg, 15% | CC1=NN=C2N1C1=C(N(C[C@H]2C)C2=CC=C(C#N)C=C2)C=C(C=C1)C=1C=NNC1 | C22H19N7
